US06207365B1
Synthesis of 3-(2-acetoxy-4-diethylaminophenyl)-2-propenic acid ethyl ester
3-(4-Diethylaminophenyl)-2-propenic acid ethyl ester (1 g, 3.80 mmol) was dissolved in 5 ml of pyridine. To this was added 0.8 ml of anhydrous acetic acid and it was allowed to react at room temperature for 24 h. After the solvent was removed in vacuo, purification was carried out by silica gel column chromatography (toluene/ethyl acetate 93:7 as a developing solvent) to give 1.2 g of the desired product in a quantitative yield.

reactant | 3-(4-Diethylaminophenyl)-2-propenic acid ethyl ester | 3.80 mmol, 1 g | C(C)OC(C=CC1=CC=C(C=C1)N(CC)CC)=O | C15H21NO2
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-acetoxy-4-diethylaminophenyl)-2-propenic acid ethyl ester | 1.2 g, quantitative yield | C(C)OC(C=CC1=C(C=C(C=C1)N(CC)CC)OC(C)=O)=O | C17H23NO4
